US05237063
2-Amino-4-methoxy-6-trifluoromethoxypyrimidine
2.7 g (0.015 mol) of 30% strength sodium methylate were added over the course of 15 minutes to 2.95 g (0.015 mol) of 2-amino-4-fluoro-6-trifluoromethoxypyrimidine in 50 ml of methanol while stirring at -5° to 0° C. The reaction mixture was stirred at 0° C. for 1 hour, warmed to 25° C. and then concentrated under reduced pressure, stirred with water and extracted 2×with methylene chloride. Drying and concentrating under reduced pressure resulted in 3.1 g (98% of theory) of the title compound of nD25 =1.4770.

reactant | sodium methylate | C[O-].[Na+]
reactant | 2-amino-4-fluoro-6-trifluoromethoxypyrimidine | 0.015 mol | NC1=NC(=CC(=N1)F)OC(F)(F)F | C5H3F4N3O
solvent | methanol | 50 ml | CO | CH4O
product | 2-Amino-4-methoxy-6-trifluoromethoxypyrimidine | NC1=NC(=CC(=N1)OC)OC(F)(F)F | C6H6F3N3O2
